US07855206B2
Step I: Benzyl [(1S,2R)-5-oxo-2-(2,4,5-trifluorophenyl)cyclohexyl]carbamate
To a stirred solution of benzyl [(7S,8R)-8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-yl]carbamate (315 mg, 0.75 mmol) in sulfuric acid (15 mL, 1:1 in water) was added 1,4-dioxane (30 mL). The mixture was stirred at room temperature for 1 h. The resulting mixture was poured into water (70 ml) and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and evaporated to yield the title compound. LC/MS 378.0 (M+1).

reactant | benzyl [(7S,8R)-8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]dec-7-yl]carbamate | 0.75 mmol, 315 mg | FC1=C(C=C(C(=C1)F)F)[C@@H]1[C@H](CC2(OCCO2)CC1)NC(OCC1=CC=CC=C1)=O | C22H22F3NO4
reactant | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
reactant | water | 70 ml | O | H2O
solvent | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
product | Benzyl [(1S,2R)-5-oxo-2-(2,4,5-trifluorophenyl)cyclohexyl]carbamate | O=C1CC[C@@H]([C@H](C1)NC(OCC1=CC=CC=C1)=O)C1=C(C=C(C(=C1)F)F)F | C20H18F3NO3
